US06958347B2
Step B. Preparation of Intermediate 2-Iodo-4-nitrobenzoic acid (I-1b):
Solid potassium iodide (55 g, 0.33 mol) was added in one portion to a suspension of 2-iodosyl-4-nitro-benzoic acid I-1a (54.9 g, 0.18 mol) in water (250 ml) and glacial acetic acid (50 ml). Over the next 5-10 minutes, the solids gradually went into solution and the solution turned from off-white to red. After stirring for one hour at 23° C., gaseous sulfur dioxide was bubbled through the reaction mixture until the red color dissipated and a pale green suspension had formed. The solids were collected by filtration, co-evaporated from toluene (3×250 ml), and dried in vacuo to affort 2-iodo-4-nitrobenzoic acid I-1b (33 g, 64%).

reactant | potassium iodide | 0.33 mol, 55 g | [I-].[K+]
reactant | 2-iodosyl-4-nitro-benzoic acid | I(=O)C1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4INO5
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | water | 250 ml | O | H2O
product | 2-Iodo-4-nitrobenzoic acid | IC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4INO4
